datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:63]1=[C:62]([BH2-:11][H:10])[N:73](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:65]=[CH:64]1.F[C:31]1=[C:32](F)[C:33](=[O:34])[C:42](F)=[C:41](F)[C:20]1=[O:21]>>CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:63]1=[C:62]([BH2:11])[N:73](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:65]=[CH:64]1.F[C:31]1=[C:32](F)[C:33](=[O:34])[C:42](F)=[C:41](F)[C:20]1([H:10])[O-:21] 10,11=10,20;20,21=21"
"CC1(C)[O:62][C:11]([O-:12])=[C:10]([C:91]2=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]2)[C:72](=[O:73])[O:83]1.[CH+:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC1(C)[O:62][C:11](=[O:12])[C:10]([CH:20]2[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)([C:91]2=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]2)[C:72](=[O:73])[O:83]1 10,11=10,20;12=11,12"
"CCCN[C:62]([C@@H:61]1CCC[NH:10]1)=[O:63].CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1>>CCCN[C:62]([C@@H:61]1CCC[NH+:10]1[CH:20]([C-:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:41](C1=CC=CC=C1)(=[O:42])=[O:43])[C:51]1=[CH:52][CH:53]=[C:54](OC)[CH:56]=[CH:55]1)=[O:63] 10=20;20,21=21"
C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]13C4C5C6C1[Fe:42]5643179%10C3C1C7C9C3%10)C28.C1=CC=C([C:61]([CH-:10][C:71](C2=CC=CC=C2)=[O:72])=[O:62])C=C1>>C1=CC=C([C:61]([CH:10]([CH:20]([C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[C:41]23C4C5C6C2[Fe:42]56432789C3C2C7C8C39)[C:71](C2=CC=CC=C2)=[O:72])=[O:62])C=C1 10=20
"C/[N:10]=[C:11](/C(F)(F)F)[O-:12].C[C:32]1=[N+:21]([F:20])[C:42](C)=[CH:43][C:34](C)=[CH:33]1>>C[C:32]1=[N:21][C:42](C)=[CH:43][C:34](C)=[CH:33]1.C[N:10]([C:11](C(F)(F)F)=[O:12])[F:20] 10,11=10,20;12=11,12;20,21=21"
"CCC[C:20](C)=[O:21].CC[Hg:11][CH2:10]C>>CCC[C:20](C)([CH2:10]C)[O-:21].CC[Hg+:11] 10,11=10,20;20,21=21"
"CC12C3(C)C4(C)C5(C)C1(C)[Fe-2:11]2345(C#[O+])(C#[O+])[H:10].[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1>>CC12C3(C)C4(C)C5(C)C1(C)[Fe-:11]2345(C#[O+])C#[O+].[H:10][CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1 10,11=10,20"
"C/[CH:10]=[CH:11]\[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1.C1=CC=C([C:23]2=[CH:22][C:21](=[CH:20][C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[CH:32]=[C:33](C3=CC=CC=C3)[C:24]2=[O:25])C=C1>>C[CH:10]([CH+:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)[CH:20]([C:21]1=[CH:22][C:23](C2=CC=CC=C2)=[C:24]([O-:25])[C:33](C2=CC=CC=C2)=[CH:32]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C[N+:23](C)=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.C[Si:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Si:73](C)(C)C>>C[N:23](C)[CH:22]=[CH:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.C[Si:63](C)(C)[CH2:62][CH+:11][CH2:72][Si:73](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH:11](CC)[H:10].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[O+:21]C)[CH:35]=[CH:36]1>>CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH+:11]CC.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[O:21]C)[CH:35]=[CH:36]1 10,11=10,20;20,21=21"
"FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33].[H][B-:11]([H])([H:10])[C:62]1=[N+:63](C)[CH:65]=[CH:64][N:73]1C>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].FC(F)(F)[S:20][H:10].[H][B:11]([H])[C:62]1=[N+:63](C)[CH:65]=[CH:64][N:73]1C 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25].C[C:63]1=[CH:62][CH:61]=[N:10][CH:71]=[CH:72]1>>CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([N+:10]2=[CH:61][CH:62]=[C:63](C)[CH:72]=[CH:71]2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C(/[C:10](=[C:11](\[O-:12])[C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:81]#[N:82])C=C1.CO[C:24](/[N:23]=[N:22]/[C:21](C)=[CH:20]/[C:31](=[O:32])[N:33](C)C)=[O:25]>>CO[C:24](=[N:23][N:22]=[C:21](C)[CH:20]([C:10](C1=CC=CC=C1)([C:11](=[O:12])[C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[C:81]#[N:82])[C:31](=[O:32])[N:33](C)C)[O-:25] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C(C(C2=CC=CC=C2)[C@@H]2CC[N:12]3C4=C(C=CC=C4)[S:62][C:11]3=[N:10]2)C=C1.CC[O:33][C:22](/[CH:21]=[CH:20]/[C:41](=[O:42])[O:52]CC)=[O:23]>>CC[O:33][C:22](=[CH:21][CH:20]([N:10]1[C@H](C(C2=CC=CC=C2)C2=CC=CC=C2)CC[N+:12]2=[C:11]1[S:62]C1=C2C=CC=C1)[C:41](=[O:42])[O:52]CC)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[Si:11](C)(Cl)[H:10].FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[Si+:11](C)Cl.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
